US09102621B2
4-((5,6-Dichloropyridin-3-yl)methoxy)-2,5-difluorobenzoic acid
To a solution of tert-butyl 4-((5,6-dichloropyridin-3-yl)methoxy)-2,5-difluorobenzoate (Preparation 13, 490 mg, 1.27 mmol) in DCM (5 mL) was added TFA (5 mL). After 30 minutes the reaction mixture was concentrated in vacuo and the resulting residue was purified by reverse phase chromatography eluting with H2O/MeCN/HCOOH (95/5/0.1 to 5/95/0.1, Biotage™ 40 g C18-silica gel) to yield the title compound (210 mg, 50%).

reactant | tert-butyl 4-((5,6-dichloropyridin-3-yl)methoxy)-2,5-difluorobenzoate | 1.27 mmol, 490 mg | ClC=1C=C(C=NC1Cl)COC1=CC(=C(C(=O)OC(C)(C)C)C=C1F)F | C17H15Cl2F2NO3
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-((5,6-Dichloropyridin-3-yl)methoxy)-2,5-difluorobenzoic acid | 210 mg, 50% | ClC=1C=C(C=NC1Cl)COC1=CC(=C(C(=O)O)C=C1F)F | C13H7Cl2F2NO3
